US05661163
A solution of EtOAc saturated with HCl (200 ml) was added to 4-(2-chlorophenyl)-4-cyano-N-(1,1-dimethylethoxycarbonyl)piperidine, (880 mg, 2.74 mmol). The resulting mixture was allowed to react for 1 hour at room temperature. The EtOAc was removed in vacuo affording 4-(2-Chlorophenyl)-4-cyanopiperidine hydrochloride as a white solid.

reactant | HCl | 200 ml | Cl | ClH
reactant | 4-(2-chlorophenyl)-4-cyano-N-(1,1-dimethylethoxycarbonyl)piperidine | 2.74 mmol, 880 mg | ClC1=C(C=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C17H21ClN2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-Chlorophenyl)-4-cyanopiperidine hydrochloride | Cl.ClC1=C(C=CC=C1)C1(CCNCC1)C#N | InChI=1S/C12H13ClN2.ClH/c13-11-4-2-1-3-10(11)12(9-14)5-7-15-8-6-12;/h1-4,15H,5-8H2;1H
